* gnetlist -g spice-sdb -o lowpass.net lowpass.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
R1 1 Vout 1k  
C1 0 Vout 1n  
V1 1 0 dc 0 ac 1
.end
