* gnetlist -g spice-sdb bjt1.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from bc337.model vvvvvvvv
*BC337AP ZETEX Spice model Last revision 4/90 Medium Power
*ZTX Si 625mW 45V 800mA 100MHz pkg:TO-92 1,2,3
.MODEL QBC337AP NPN(IS=3.94E-14 BF=175 VAF=109.4 IKF=0.8 ISE=7.4E-15
+ NE=1.3 BR=20.5 NR=0.974 VAR=14.25 IKR=0.1 ISC=3.16E-13 NC=1.2 RB=1.1
+ RE=0.1259 RC=0.0539 CJE=6.3E-11 TF=7.5E-10 CJC=1.58E-11 VJC=0.505
+ MJC=0.39 TR=8.5E-8 )
*^^^^^^^^  End of included SPICE model from bc337.model ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
Vbb Vb 0 DC 0V
.INCLUDE bc337.model
Vcc Vc 0 DC 10V
Q1 Vc Vb 0 QBC337AP 
.end
