* quadrature oscillator
*==============  Begin SPICE netlist of main design ============
.INCLUDE lm324.model
V3 Vcos 5 pulse(0 2.5 0 0 0 100u) dc 0V
R5 3 unconnected_pin-1 10k
R4 5 3 1
XU2 1 4 Vp Vm Vcos LM324
XU1 0 2 Vp Vm Vsin LM324
C3 Vcos 4 10n
R3 4 0 10k
R1 2 3 10k
C1 Vsin 2 10n
R2 1 Vsin 10k
C2 0 1 10n
V2 0 Vm DC 2.5V
V1 Vp 0 DC 2.5V
.end

